US07244843B2
Step D. Preparation of (±)-1,3,4,9a-tetrahydro-2H-9-oxa-2,4a-diaza-anthracen-10-one
To a stirring solution of N-[2-(2,2-dimethoxy-ethylamino)-ethyl]-2-hydroxy benzamide (300 mg, 1.11 mmol) in CHCl3 (100 mL) was added conc H2SO4 (2 mL). The reaction was refuxed overnight, then cooled to room temperature then poured into a mixture of ice-saturated NaHCO3 solution. The mixture was extracted with EtOAc (3×50 mL). The organic layers were combined, washed with brine, dried on MgSO4, and conc in vacuo to yield a yellowish oil. The oil was then purified by chiral HPLC using an OD column with 10% iPrOH in heptane to yield 50 mg of the R enantiomer as white solid, MS (ESI) 205 (M+H), and 56 mg of the S enantiomer as white solid, MS (ESI) 205 (M+H).

reactant | N-[2-(2,2-dimethoxy-ethylamino)-ethyl]-2-hydroxy benzamide | 1.11 mmol, 300 mg | COC(CNCCNC(C1=C(C=CC=C1)O)=O)OC | C13H20N2O4
reactant | H2SO4 | 2 mL | OS(=O)(=O)O | H2O4S
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | (±)-1,3,4,9a-tetrahydro-2H-9-oxa-2,4a-diaza-anthracen-10-one | C1NCCN2C(C3=CC=CC=C3OC12)=O | C11H12N2O2
